US07423030B2
6.4. N-(1-benzylpiperidin-4-yl)-7-methoxy-4-(5-methylthiophen-2-yl)phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting 1-chloro-7-methoxy-4-(5-methylthiophen-2-yl)phthalazine with 4-amino-1-benzylpiperidine.

reactant | 1-chloro-7-methoxy-4-(5-methylthiophen-2-yl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C=1SC(=CC1)C | C14H11ClN2OS
reactant | 4-amino-1-benzylpiperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | N-(1-benzylpiperidin-4-yl)-7-methoxy-4-(5-methylthiophen-2-yl)phthalazin-1-amine | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NN=C(C2=CC=C(C=C12)OC)C=1SC(=CC1)C | C26H28N4OS
